US07488739B2
An aqueous solution of sodium nitrate was added dropwise to an aqueous hydrochloric acid solution of 3,4-difluoroaniline under ice cooling, for stirring at the same temperature for 1.5 hours. The resulting reaction mixture was added dropwise to an aqueous EtOH solution of ethyl cyanoacetate and sodium acetate as prepared in a separate reaction flask, for stirring at ambient temperature for 2 hours, to obtain ethyl cyano[(3,4-difluorophenyl)diazenyl]acetate.

reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | ethyl cyano[(3,4-difluorophenyl)diazenyl]acetate | C(#N)C(C(=O)OCC)N=NC1=CC(=C(C=C1)F)F | C11H9F2N3O2
